US04804404
2-trifluoromethyl-3-methyl-7-chloroquinoline-8-carboxylic acid of melting point 186°-188° C. is prepared, in a yield of 41%, from 5-chloro-2-trifluoromethyl-3,1-benzoxazin-4-one and 1-diethylaminoprop-1-ene, using a method similar to that described in Example 3.

reactant | 5-chloro-2-trifluoromethyl-3,1-benzoxazin-4-one | ClC1=CC=CC2=C1C(OC(=N2)C(F)(F)F)=O | C9H3ClF3NO2
reactant | 1-diethylaminoprop-1-ene | C(C)N(C=CC)CC | C7H15N
product | 2-trifluoromethyl-3-methyl-7-chloroquinoline-8-carboxylic acid | yield of 41% | FC(C1=NC2=C(C(=CC=C2C=C1C)Cl)C(=O)O)(F)F | C12H7ClF3NO2
